US09210927B2
Preparation of 6-((E)-4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)-3,4-dihydronaphthalen-1(2H)-one oxime (BI5a)
To a stirred solution of ((E)-6-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)-3,4-dihydronaphthalen-1(2H)-one (0.4 g, 0.92 mmol) in EtOH (50 mL) were added hydroxylamine hydrochloride (0.128 g, 1.85 mmol) and sodium acetate (0.23 g, 2.77 mmol), and the reaction mixture was heated at reflux for 3 h. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with H2O and extracted with EtOAc. The combined organic extracts were washed with brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure to give the crude compound, which was purified by flash column chromatography (SiO2, 100-200 mesh; 10-15% EtOAc in petroleum ether). The title compound was isolated as a solid (0.3 g, 73%): mp 155-158° C.; 1H NMR (400 MHz, CDCl3) δ 7.89 (d, J=8.4 Hz, 1H), 7.41 (s, 2H), 7.24 (m, 1H), 7.17 (m, 1H), 6.57 (d, J=16 Hz, 1H), 6.46 (dd, J=16.0, 8.0 Hz, 1H), 4.13 (m, 1H), 2.82 (m, 4H), 2.04 (m, 2H); ESIMS m/z 445.95 ([M−H]−).

reactant | (E)-6-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)-3,4-dihydronaphthalen-1(2H)-one | 0.92 mmol, 0.4 g | FC(C(/C=C/C=1C=C2CCCC(C2=CC1)=O)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C20H14Cl3F3O
reactant | hydroxylamine hydrochloride | 1.85 mmol, 0.128 g | Cl.NO
reactant | sodium acetate | 2.77 mmol, 0.23 g | C(C)(=O)[O-].[Na+]
solvent | EtOH | 50 mL | CCO | C2H6O
product | 6-((E)-4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)-3,4-dihydronaphthalen-1(2H)-one oxime | FC(C(/C=C/C=1C=C2CCCC(C2=CC1)=NO)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C20H15Cl3F3NO
